US06307047B1
2-(3,4-Difluorophenyl)-4-(2-methylpropoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 335, substituting 2-(3,4-difluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-(3-chlorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (yield: 150 mg, 61%). mp 116-117° C. 1H NMR (300 MHz, DMSO-d6) δ 0.78 (d, 6H), 1.84, (m, 1H), 3.3 (s, 3H), 4.2 (d, 2H), 7.54 (m, 1H), 7.6 (m, 1H), 7.82 (m, 1H), 7.91 (d, 2H), 8.07 (d, 2H), 8.21 (s, 1H). MS (DCI/NH3) m/z 435 (M+H)+, 452 (M+NH4)+. Anal. calc. for C21F2H20N2O4S: C, 58.06; H, 4.64; N, 6.45.

reactant | 2-(3,4-difluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H18F2N2O6S2
reactant | NH3 | N | H3N
product | 2-(3,4-Difluorophenyl)-4-(2-methylpropoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OCC(C)C)C1=CC=C(C=C1)S(=O)(=O)C | C21H20F2N2O4S
